data/specific_train_final.csv
"[H:20][CH:21](CC)CCCCCC.[Cl:10]>>[H:20][Cl:10].CCCCCC[CH:21]CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)C(C)[O:20].[N+:10](=O)[O-]>>CCC(C)C(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](CO[N+](=O)[O-])C=CO.[O:20][O]>>C[C:10](CO[N+](=O)[O-])(C=CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2](=[CH:5][CH2:6][O:7])[CH2:3][OH:4].[N+:9](=[O:10])[O-:8]>>[CH3:1][C:2](=[CH:5][CH2:6][O:7][N+:9](=[O:10])[O-:8])[CH2:3][OH:4] 7-7,9; 9-7,9",Room Temperature,Termination,recombine
"CCC(C)C[O:21][O:20][O].[N+](=O)[O-]>>CCC(C)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=CCO[O:20])CCl.[N:10]=O>>CC(=CCO[O:20][N:10]=O)CCl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(C(C)(C)O[O:10])O>>[H:20][O:10]OC(C)(C)C(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][CH:2]([CH3:3])[O:4][O:5][O:6]>>[CH3:1][CH:2]([CH3:3])[O:4].[O:5][O:6] 5,4-4; 5,4-5",Room Temperature,Initiation,homolyze
"CC(CO[N+](=O)[O-])([CH:10]C[O:20][OH:21])O>>CC(CO[N+](=O)[O-])([CH:10]1C[O:20]1)O.[OH:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"[H:4][O:3][O:2][O:1].[CH3:5][CH2:6][CH2:7][CH2:8][O:9][CH:10]([CH:12]([CH3:14])[OH:13])[O:11]>>[H:4][O:3].[CH3:5][CH2:6][CH2:7][CH2:8][O:9][CH:10]([CH:12]([CH3:14])[OH:13])[O:11].[O:1][O:2] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C(C(O[O:10])Cl)(O)Cl>>[H:20][O:10]OC(C(O)Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCCCCC(CC)[O:20].[N+:10](=O)[O-]>>CCCCCCC(CC)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C=O)(C(C[O:20])COO)OO.[N+:10](=O)[O-]>>CC(C=O)(C(C[O:20][N+:10](=O)[O-])COO)OO 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1C(O1)/C=C\C(=O)C(C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC(C)C(=O)/C=C\C1C(O1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)OC(C)(C)[O:20][O:21]N=O>>CC(C)OC(C)(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"COC[O:20][O:21][O].[N+](=O)[O-]>>COC[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:7][CH:6]([C:8]([CH3:9])([CH3:10])[CH3:11])[O:5][O:4][O:3][N+:2](=[O:1])[O-:12]>>[CH3:7][CH:6]([C:8]([CH3:9])([CH3:10])[CH3:11])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:12] 2,3-3; 2,3-2",Room Temperature,Initiation,homolyze
"[CH2:11]1O[CH:10]1[O:20][O:21]N=O>>[CH2:11]O[CH:10]=[O:20].N(=O)[O:21] 10,11-10,20;10,11-11;20,21-10,20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(CO[N+](=O)[O-])O[O:20].[N:10]=O>>CCC(C)(CO[N+](=O)[O-])O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1(C(O1)C(=CC(=O)CC)C)CC.[OH:10]>>[H:20][OH:10].CCC(=O)C=C(C)C1C(O1)(CC)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C1CCC(CC1)[O:20][O:21]N=O>>C1CCC(CC1)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"c1ccccc1C(CO)[O:10][O:20]N=O>>c1ccccc1C(CO)[O:10].[O:20]N=O 10,20-10; 10,20-20",Room Temperature,Initiation,homolyze
"C1=CC=C(C=C1)C(=O)O[O:20].[N:10]=O>>C1=CC=C(C=C1)C(=O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=CC=C(C=C1)C[O:20][O:21]N=O>>CC1=CC=C(C=C1)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCCCCCC[CH:10]CC.[O:20][O]>>CCCCCCCCC[CH:10](CC)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][C:2]([CH2:3][O:4][OH:5])([C:6](=[CH:7][OH:8])[CH3:9])[O:10][O:11]>>[H:1][C:2]([CH2:3][O:4][OH:5])[C:6](=[CH:7][OH:8])[CH3:9].[O:10][O:11] 2,10-2; 2,10-10",Room Temperature,Initiation,homolyze
"C[C:10](CO[N+](=O)[O-])C=O.[O:20][O]>>C[C:10](CO[N+](=O)[O-])(C=O)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCOC(C(C)O)[O:20][O:21]N=O>>CCCCOC(C(C)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCC(C(C)O)[O:20][O:21][O]>>CCCC(C(C)O)[O:20].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][CH:22]C(C)(CO[N+](=O)[O-])OO.[O:10][O]>>[H:20][O:10][O].CC(CO[N+](=O)[O-])([CH:22]=[O:21])OO 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCC[C:10](C)CC.[O:20][O]>>CCC[C:10](C)(CC)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC1=CCC(CC1O)C(C)(C)O[O:10]>>[H:20][O:10]OC(C)(C)C1CC=C(C(C1)O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)C(=O)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)C(=O)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(C(OC)O[O:10])O>>[H:20][O:10]OC(C(C)O)OC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
